US08106043B2
tert-Butyl methyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate:
To a stirred solution of 2-(methylamino)-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone (506.5 mg, 1.895 mmol) in dioxane (10 mL) and triethylamine (0.533 mL, 3.79 mmol) was added di-tert-butyl dicarbonate (434 mg, 1.990 mmol), and the resulting mixture was then stirred at room temperature for 30 minutes The mixture was then diluted with ethyl acetate and washed with water (3×) and brine. The organic phase was dried, filtered, and concentrated giving the desired product (695 mg, 100%) as a pale foam. 1H NMR (DMSO-d6) δ 8.36-8.28 (m, 1H), 7.98-7.92 (m, 1H), 7.56-7.48 (m, 1H), 4.23-4.16 (m, 2H), 3.96-3.88 (m, 2H), 3.33-3.28 (m, 2H), 2.84 (m, 3H), 1.39. 1.30 (2s, 9H); ESI-MS (m/z, %): 390 (M+Na, 100), 368 (MH+, 16), 312 (35), 268 (100).

reactant | 2-(methylamino)-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 1.895 mmol, 506.5 mg | CNCC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C11H13N3O3S
reactant | triethylamine | 3.79 mmol, 0.533 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.990 mmol, 434 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl methyl(2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-oxoethyl)carbamate | 695 mg, 100% | CN(C(OC(C)(C)C)=O)CC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C16H21N3O5S
